US07863310B2
1-isopropyl-2-amino-6-(2,4-diphenyl-1H-imidazol-5-yl)-1H-benzimidazole
Stir a mixture of 2,4-diphenyl-5-(3-(isopropyl)amino-4-aminophenyl)imidazole (0.075 g, 0.20 mmol), lithium methoxide (0.41 mmol, 15 mg) and cyanogen bromide (0.6 mmol, 0.2 ml of 3N in dichloromethane) in dichloromethane (5 ml) under nitrogen for 1 hour. Add ethanol (5 ml), and continue stirring for 5 hours. Pour reaction mixture over an SCX column, and elute sequentially with methanol followed by 2N ammonia in methanol. Combine the basic fractions and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 9:1 dichloromethane:methanol to provide the title compound as a white solid (30 mg, 38%).

reactant | 2,4-diphenyl-5-(3-(isopropyl)amino-4-aminophenyl)imidazole | 0.20 mmol, 0.075 g | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC(=C(C=C1)N)NC(C)C | C24H24N4
reactant | lithium methoxide | 0.41 mmol, 15 mg | C[O-].[Li+]
reactant | cyanogen bromide | 0.6 mmol, 3N, 0.2 ml | N#CBr | CBrN
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-isopropyl-2-amino-6-(2,4-diphenyl-1H-imidazol-5-yl)-1H-benzimidazole | 30 mg, 38% | C(C)(C)N1C(=NC2=C1C=C(C=C2)C2=C(N=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)N | C25H23N5
